US06638926B2
2-(Trifluoromethyl)benzoyl chloride (4.2 ml, 29.2 mmol) is added dropwise to a solution of 2-aminonicotinic acid (2.04g, 14.76 mmol) in 20 ml of pyridine. The reaction mixture is heated at 158 C for 30 min then cooled to room temperature. The reaction is poured into 200 ml of water and an oil forms which solidifies upon stirring. The solid is collected by vacuum filtration and washed with water and diethyl ether. The product is dried to give 2-(2-trifluoromethyl-phenyl)-pyrido[2,3-d][1,3]oxazin-4-one (2.56 g, 60% yield) which may be used in the next step without further purification.

reactant | 2-(Trifluoromethyl)benzoyl chloride | 29.2 mmol, 4.2 ml | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | 2-aminonicotinic acid | 14.76 mmol, 2.04g | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | water | 200 ml | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-trifluoromethyl-phenyl)-pyrido[2,3-d][1,3]oxazin-4-one | 2.56 g, 60% yield | FC(C1=C(C=CC=C1)C=1OC(C2=C(N1)N=CC=C2)=O)(F)F | C14H7F3N2O2
